US04053312
C. 3-Octadecanesulfinyl-2-naphthol
To a solution of 25 g potassium hydroxide in 500 ml ethanol was added 25 g (0.051 mole) 3-octadecanesulfinyl-2-naphthyl acetate. The mixture was stirred at room temperature in a nitrogen atmosphere for 1.5 hr. then acidified with 5% hydrochloric acid. The solid was collected, dried, and recrystallized from hexane-ethyl acetate to give 17 g of light pink solid, m.p. 107°-108° C.

reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | 3-octadecanesulfinyl-2-naphthyl acetate | 0.051 mole, 25 g | C(C)(=O)OC1=CC2=CC=CC=C2C=C1S(=O)CCCCCCCCCCCCCCCCCC | C30H46O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-Octadecanesulfinyl-2-naphthol | 17 g | C(CCCCCCCCCCCCCCCCC)S(=O)C=1C(=CC2=CC=CC=C2C1)O | C28H44O2S
